US03985723
A mixture of 7.85 mmol of glycylglycine, 15 ml of dimethyl sulfoxide and 24 mmol of sym-trichlorotrifluoroacetone was stirred at room temperature for 24 hours in a flask protected from atmospheric moisture. The reaction mixture was then poured into 50 ml of ice water and the resultant mixture was extracted thrice with n-butanol and chromatographed on a column packed with silica gel. N-trifluoroacetylglycylglycine, melting at 184.7°-185.0° C., was obtained in a yield of 42.5 percent.

reactant | glycylglycine | 7.85 mmol | NCC(=O)NCC(=O)O | C4H8N2O3
reactant | trichlorotrifluoroacetone | ClC(C(=O)C(F)(F)F)(Cl)Cl | C3Cl3F3O
solvent | dimethyl sulfoxide | 15 ml | CS(=O)C | C2H6OS
product | N-trifluoroacetylglycylglycine | yield of 42.5 percent | FC(C(=O)NCC(=O)NCC(=O)O)(F)F | C6H7F3N2O4
